US08420633B2
trans-8-Chloro-5-methanesulfonyl-1-(4-phenyl-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene
To a solution of trans-8-chloro-1-(4-phenyl-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene hydrochloride (0.065 g, 0.16 mmol) and triethylamine (0.046 ml, 0.33 mmol) in dichloromethane (5 ml) was added methanesulphonyl chloride (0.013 ml, 0.17 mmol) at room temperature. After stirring for 19 h the reaction mixture was concentrated in vacuo. Flash-chromatography with n-heptane/ethyl acetate as eluent gave the title compound (0.043 g, 60%) as white solid. MS m/e: 457 (M+H+).

reactant | trans-8-chloro-1-(4-phenyl-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene hydrochloride | 0.16 mmol, 0.065 g | Cl.ClC1=CC2=C(N3C(=NN=C3CNC2)[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1
reactant | triethylamine | 0.33 mmol, 0.046 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.17 mmol, 0.013 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | trans-8-Chloro-5-methanesulfonyl-1-(4-phenyl-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 0.043 g, 60% | ClC1=CC2=C(N3C(=NN=C3CN(C2)S(=O)(=O)C)[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1 | C23H25ClN4O2S
